US07423030B2
17.2. 4-Benzyl-7-methoxy-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting unpurified 5-methoxy-2-(phenylacetyl)benzoic acid with hydrazine hydrate.

reactant | 5-methoxy-2-(phenylacetyl)benzoic acid | COC=1C=CC(=C(C(=O)O)C1)C(CC1=CC=CC=C1)=O | C16H14O4
reactant | hydrazine hydrate | O.NN
product | 4-Benzyl-7-methoxy-2H-phthalazin-1-one | C(C1=CC=CC=C1)C1=NNC(C2=CC(=CC=C12)OC)=O | C16H14N2O2
